US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-3-hydroxyquinoxaline-2-carboxamide (Compound No. 29)
Using 3-hydroxyquinoxaline-2-carboxylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 3-hydroxyquinoxaline-2-carboxylic acid | OC=1C(=NC2=CC=CC=C2N1)C(=O)O | C9H6N2O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-3-hydroxyquinoxaline-2-carboxamide | Yield: 2.7% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1=NC2=CC=CC=C2N=C1O)(F)F | C17H9F6N3O2
